US04625032
146 mg of (4RS)-4-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline oxalate, 0.06 ml of carbon disulfide, 0.06 ml of methyl iodide, 0.14 ml of triethylamine and 2 ml of dimethylsulfoxide are treated in the same manner as described in Example 17. 85 mg of methyl (4RS)-4-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate are obtained as pale yellow powder. Yield: 58%

reactant | (4RS)-4-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline oxalate | 146 mg | C(C(=O)O)(=O)O.OCC1CNCC=2NC3=CC=CC=C3C12
reactant | carbon disulfide | 0.06 ml | C(=S)=S | CS2
reactant | methyl iodide | 0.06 ml | CI | CH3I
reactant | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
product | methyl (4RS)-4-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate | 85 mg, Yield: 58% | OCC1CN(CC=2NC3=CC=CC=C3C12)C(=S)SC | C14H16N2OS2
